US07288544B2
1) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono 3-(2-cyanoethyl) ester 5-(2-(5H-dibenzo[a,d] cyclohepten-5-yl) ethyl) ester:
472 mg (2.0 mmol) of 1-(5H-dibenzo[a,d] cyclohepten-5-yl) ethanol, 0.03 ml (0.2 mmol) of triethylamine and 0.345 ml (4.47 mmol) of diketene were heated and stirred in 10 ml of toluene at 80° C. for 3.5 hours. After saturated aqueous sodium hydrogencarbonate solution was added at room temperature, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. 20 ml of 2-propanol, 312 mg (2.02 mmol) of 3-aminocrotonate 2-cyanoethyl and 0.23 ml (2.03 mmol) of 3-chlorobenzaldehyde were added to the residue and the residue was heated and stirred at 80° C. overnight. After evaporating 2-propanol under reduced pressure, saturated aqueous sodium chloride solution was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the basic silica gel chromatography (hexane/ethyl acetate=9/1 to 1/3) to obtain the title compound.

reactant | 1-(5H-dibenzo[a,d] cyclohepten-5-yl) ethanol | 2.0 mmol, 472 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C(C)O | C17H16O
reactant | triethylamine | 0.2 mmol, 0.03 ml | C(C)N(CC)CC | C6H15N
reactant | diketene | 4.47 mmol, 0.345 ml | C=C1CC(=O)O1 | C4H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-chlorobenzaldehyde | 2.03 mmol, 0.23 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)O)C)C)C(=O)O | C15H14ClNO4
